US04426522
A 1 liter three-necked flask equipped with a mechanical stirrer was charged with 300 ml of water and 60 ml of glacial acetic acid. 3 g of 1-(3'-trifluoromethylbenzyl)-6-aza uracil was added in one portion followed by the addition of 3.3 g of zinc powder in small portions. After the addition was terminated the mixture was stirred vigorously and refluxed for 36 hours after which the mixture was cooled in ice and filtered. The crystals obtained were recrystallized from iso-propanol to give 1.5 g (50%) of 2-(3'-trifluoromethylbenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 152°.

reactant | water | 300 ml | O | H2O
reactant | 1-(3'-trifluoromethylbenzyl)-6-aza uracil | 3 g | FC(C=1C=C(CN2C(=O)NC(=O)C=N2)C=CC1)(F)F | C11H8F3N3O2
catalyst | zinc | 3.3 g | [Zn] | Zn
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(3'-trifluoromethylbenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 1.5 g, 50% | FC(C=1C=C(CN2NCC(NC2=O)=O)C=CC1)(F)F | C11H10F3N3O2
